US07238696B2
Preparation of 4-(4-Benzylpiperazin-1-yl)-2-[(Phenylsulfonyl)methyl]aniline
A mixture of 1-benzyl-4-{4-nitro-3-[(phenylsulfonyl)methyl]phenyl}piperazine (6.77 g, 15.0 mmol) and granular tin (7.48 g, 63.0 mmol) in methanol and conc. hydrochloric acid is heated at 45° C. for 4 h, stirred at ambient temperature for 18 h, carefully poured into saturated aqueous NaHCO3, treated with ether and stirred for 0.5 h. The phases are separated and the aqueous phase is extracted sequentially with ether and CH2Cl2. The extracts and organic phase are combined, dried over MgSO4 and concentrated in vacuo. The resultant residue is dissolved in CH2Cl2 and filtered through Celite®. The filtrate is concentrated in vacuo to afford the title compound as a pale yellow solid, 6.11 g (97% yield), mp 141–143° C., characterized by NMR and mass spectral analyses

reactant | 1-benzyl-4-{4-nitro-3-[(phenylsulfonyl)methyl]phenyl}piperazine | 15.0 mmol, 6.77 g | C(C1=CC=CC=C1)N1CCN(CC1)C1=CC(=C(C=C1)[N+](=O)[O-])CS(=O)(=O)C1=CC=CC=C1 | C24H25N3O4S
reactant | tin | 63.0 mmol, 7.48 g | [Sn] | Sn
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | ether | CCOCC | C4H10O
solvent | methanol | CO | CH4O
solvent | hydrochloric acid | Cl | ClH
product | 4-(4-Benzylpiperazin-1-yl)-2-[(Phenylsulfonyl)methyl]aniline | 97% yield | C(C1=CC=CC=C1)N1CCN(CC1)C1=CC(=C(N)C=C1)CS(=O)(=O)C1=CC=CC=C1 | C24H27N3O2S
